US04159266
Methyl 3-methyl-2-(2-chlorosulfinyl-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate (0.20 g.) was stirred in about 27 g. of polyphosphoric acid for 20 minutes. Ice water and ethyl acetate (25 ml.) was added to the reaction mixture. The organic layer was separated and washed successively with water, aqueous sodium bicarbonate, and brine, dried (MgSO4), and evaporated in vacuo to dryness to give methyl 7-phthalimido-3-methylenecepham-4-carboxylate 1-oxide (0.05 g.) as a white foam.

reactant | Methyl 3-methyl-2-(2-chlorosulfinyl-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate | 0.20 g | CC(C(C(=O)OC)N1C(C(C1=O)N1C(C=2C(C1=O)=CC=CC2)=O)S(=O)Cl)=C | C17H15ClN2O6S
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | methyl 7-phthalimido-3-methylenecepham-4-carboxylate 1-oxide | 0.05 g | C1(C=2C(C(N1C1[C@@H]3N(C(C(CS3=O)=C)C(=O)OC)C1=O)=O)=CC=CC2)=O | C17H14N2O6S
